US06319920B1
A solution of 5-bromo-2,3-dihydrobenzofuran (50 grams, 0.251 mole), and 1,2-dibromoethane (2.2 ml) in tetrahydrofuran (250 ml) was added dropwise to a stirred suspension of magnesium turnings (7.5 grams, 0.31 gram-atoms) in tetrahydrofuran (50 ml) over a period of 45 minutes. During the addition the reaction temperature was maintained at 30° C. The solution was cooled in an ice-bath and 3-bromo-2-methylpropene was added all at once. After stirring overnight, the reaction was quenched with cold 2% hydrochloric acid and the mixture was extracted with ether. Evaporation of solvent gave 5-(2-methylallyl)-2,3-dihydrobenzofuran as an oil (43.4 grams, 99%). M+ 174.

reactant | 5-bromo-2,3-dihydrobenzofuran | 0.251 mole, 50 grams | BrC=1C=CC2=C(CCO2)C1 | C8H7BrO
reactant | 1,2-dibromoethane | 2.2 ml | BrCCBr | C2H4Br2
reactant | magnesium | 7.5 grams | [Mg] | Mg
reactant | 3-bromo-2-methylpropene | BrCC(=C)C | C4H7Br
solvent | tetrahydrofuran | 250 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | 5-(2-methylallyl)-2,3-dihydrobenzofuran | 43.4 grams, 99% | CC(CC=1C=CC2=C(CCO2)C1)=C | C12H14O
